US08304412B2
4-({[tert-Butyl(diphenyl)silyl]oxy}methyl)piperidine
5.00 g (43.41 mmol) of 4-piperidinemethanol are dissolved in 400 ml of dichloromethane, and 9.1 ml (65.11 mmol) of triethylamine, 212 mg (1.74 mmol) of 4-N,N-dimethylaminopyridine and 16.9 ml (65.12 mmol) of tert-butyldiphenylchlorosilane are added in succession. The reaction mixture is stirred at RT for 8 h. After addition of 50 ml of dichloromethane the mixture is washed once with 20 ml of water and once with 20 ml of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulfate. The crude product is used in the next reaction without further purification.

reactant | 4-piperidinemethanol | 43.41 mmol, 5.00 g | N1CCC(CC1)CO | C6H13NO
reactant | triethylamine | 65.11 mmol, 9.1 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldiphenylchlorosilane | 65.12 mmol, 16.9 ml | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-({[tert-Butyl(diphenyl)silyl]oxy}methyl)piperidine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1CCNCC1 | C22H31NOSi
